US05185351
(vii) methyl (E)-3-[2-n-butyl-1-{(4-carbomethoxy-3-hydroxyphenyl)methyl}-1H-imidazol-5-yl]-2-(2-thienyl)methyl-2-propenoate
To a solution of methyl (E)-3-[2-n-butyl-1-{(4-carbomethoxy-3-methoxymethoxyphenyl)methyl}-1H-imidazol-5-yl]-2-(2-thienyl)methyl-2-propenoate (2.1 g, 4.1 mmol) in 40 mL of methanol was added approximately 0.1 mL of concentrated hydrochloric acid. The reaction was refluxed for 5 hours and then concentrated in vacuo. The residue was partitioned between ethyl acetate and saturated sodium bicarbonate solution. The layers were separated. The organic extract was dried with magnesium sulfate, and the solvent was removed in vacuo to give 1.76 g (92%) of product as an oil.

reactant | methyl (E)-3-[2-n-butyl-1-{(4-carbomethoxy-3-methoxymethoxyphenyl)methyl}-1H-imidazol-5-yl]-2-(2-thienyl)methyl-2-propenoate | 4.1 mmol, 2.1 g | C(CCC)C=1N(C(=CN1)/C=C(/C(=O)OC)\CC=1SC=CC1)CC1=CC(=C(C=C1)C(=O)OC)OCOC | C27H32N2O6S
reactant | hydrochloric acid | approximately 0.1 mL | Cl | ClH
solvent | methanol | 40 mL | CO | CH4O
product | methyl (E)-3-[2-n-butyl-1-{(4-carbomethoxy-3-hydroxyphenyl)methyl}-1H-imidazol-5-yl]-2-(2-thienyl)methyl-2-propenoate | 1.76 g, 92% | C(CCC)C=1N(C(=CN1)/C=C(/C(=O)OC)\CC=1SC=CC1)CC1=CC(=C(C=C1)C(=O)OC)O | C25H28N2O5S
